Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Diarrhea
 
Major Surgical or Invasive Procedure:
Flex Sigmoidoscopy x 2

 
History of Present Illness:
Mr. ___ is a ___ male with new diagnosis of ulcerative 
colitis, confirmed during hospitalization from 
___. He was stabilized on steroids and discharged 
to home with plan to begin infliximab as an outpatient. 
Unfortunately, shortly after discharge, and before he had 
outpatient follow-up, his diarrhea recurred, with up to 15 
stools per day with varying amounts of blood, prompting him to 
return to the ED for evaluation. In the ED he was tachycardic, 
but afebrile and normotensive. GI was consulted and recommended 
IV steroids and admission for supportive care and initiation of 
infliximab. He denies HA, CP, SOB, N/V, abdominal pain, 
tenesmus, rash, joint pain.

ROS: Full 10 point ROS otherwise negative.
 
Past Medical History:
- Spinal fusion surgery (___) for kyphoscoliosis
- Mood disorder NOS
- Sinus surgery (___),
- Migraines
 
Social History:
___
Family History:
Sister has ulcerative colitis.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS:  Afebrile and vital signs stable (see eFlowsheet)
GENERAL: No apparent distress.
EYES: Anicteric and without injection.
ENT: Ears, nose, and oropharynx without erythema or exudate.
CV: Regular, S1 and S2, no murmurs or gallops.
RESP: Lungs clear to auscultation bilaterally without rales,
rhonchi, or wheezes.
GI: Abdomen soft, non-distended, non-tender to palpation.
MSK: BLE warm, without cyanosis or edema.
SKIN: Warm and well perfused, no excoriations, lesions,  rashes,
or ulcerations noted.
NEURO: Alert and oriented x 3, normal attention, speech is
fluent, verbal comprehension is intact. Face symmetric, gaze
conjugate and EOMI, gross motor function intact and symmetric in
all four extremities.

DISCHARGE PHYSICAL EXAM:

 
Pertinent Results:
ADMISSION LABS:
___ 06:30AM BLOOD WBC-17.3* RBC-4.36* Hgb-12.8* Hct-39.6* 
MCV-91 MCH-29.4 MCHC-32.3 RDW-13.4 RDWSD-43.5 Plt ___
___ 06:30AM BLOOD Neuts-69 Bands-3 Lymphs-13* Monos-13 
Eos-1 Baso-0 ___ Metas-1* Myelos-0 AbsNeut-12.46* 
AbsLymp-2.25 AbsMono-2.25* AbsEos-0.17 AbsBaso-0.00*
___ 06:30AM BLOOD Plt Smr-NORMAL Plt ___
___ 06:30AM BLOOD Glucose-78 UreaN-10 Creat-0.7 Na-139 
K-3.8 Cl-97 HCO3-29 AnGap-13
___ 06:30AM BLOOD ALT-36 AST-15 AlkPhos-52 TotBili-0.2
___ 06:30AM BLOOD Albumin-3.4* Calcium-8.7 Phos-3.8 Mg-2.2
___ 06:30AM BLOOD CRP-29.0*
___ 06:30AM BLOOD CRP-29.0*
___ 06:46AM BLOOD Lactate-1.8

STUDIES/IMAGING: None

MICRO: 
- C. diff: NEGATIVE
- Stool O+P: negative
- Stool cultures: negative

Pathology ___
PATHOLOGIC DIAGNOSIS:   1.  Rectosigmoid colon, biopsy: - 
Chronic moderately active colitis. - No granulomas or dysplasia 
identified. - Immunohistochemical stain for CMV is negative with 
adequate controls.

CT abdomen/pelvis w/contrast ___

IMPRESSION: 
1. Pancolitis, most extensive at the descending and sigmoid 
colon
and rectum, 
suggestive inflammatory versus infectious colitis. 
2. No evidence of obstruction. 

Sigmoidoscopy ___
Findings:  
Mucosa: Diffuse continuous erythema, friability, and ulcerations
with contact bleeding were noted in the rectum, sigmoid colon 
and
descending colon. These findings are compatible with ___ 3
ulcerative colitis. Cold forceps biopsies were performed for
histology at the rectosigmoid.  
Impression: Erythema, friability, and ulcerations in the rectum,
sigmoid colon and descending colon compatible with ___ 3
ulcerative colitis (biopsy). Otherwise normal sigmoidoscopy to
splenic flexure.

KUB ___ - IMPRESSION:  
No abnormally dilated loops of large or small bowel to suggest 
obstruction.  
Moderate fecal load throughout the colon. 

Sigmoidoscopy ___
Erosions in the sigmoid colon
Friability, ulceration and erythema in the rectum and sigmoid 
colon compatible with ulcerative colitis (biopsy)
Otherwise normal sigmoidoscopy to sigmoid colon 

 
Brief Hospital Course:
___ recent diagnosis of ulcerative colitis admitted for repeat 
flare symptoms after failing outpatient therapy for ulcerative 
colitis. He presented with repeat flare symptoms having failed 
outpatient oral steroid therapy. C. diff negative. Underwent 
flex sig ___ with biopsies for CMV, which were negative. He 
was given IV Solumedrol with a noticeable decrease in bloody 
bowel movements. He was tarted on infliximab initiation on 
___ and was continued on IV Solumedrol 20 mg IV q8 during 
hospitalization in addition to infliximab. His CRP continued to 
decrease with treatment. He was followed by gastroenterology 
while hospitalized. Colorectal surgery was also consulted during 
admission given his severe ulcerative colitis and need for 
future surgical intervention. He received 2 doses of infliximab 
in house. Despite initial improvement in his symptoms, he had 
recurrence after steroids were weaned to PO, with flex sig 
showing ongoing inflammation. Decision was ultimately made to 
pursue colectomy.

CHRONIC ISSUES
# Depression/Anxiety: Cont quetiapine, abilify, and lamotrigine.

# Hx of back pain: history of spinal fusion per patient, has
occasional back pain. Given Tylenol prn and Lidocaine patch prn

Post-operatively the patient was transferred to the inpatient 
colorectal surgery service. Over the next several days we 
monitored him closely. When he had ileostomy function we 
advanced his diet from clear liquids to regular. We continued to 
slowly taper the steroids. When he was tolerating a regular diet 
and pain was controlled he was discharged home with nursing 
services to assist with ileostomy teaching. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 4 mg PO DAILY 
2. BuPROPion XL (Once Daily) 300 mg PO DAILY 
3. LamoTRIgine 300 mg PO DAILY 
4. Multivitamins W/minerals 1 TAB PO DAILY 
5. PredniSONE 40 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override:  
do not take more than 3000mg of Tylenol in 24 hours or drink 
alcohol while taking 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*45 Tablet Refills:*0 
2.  Enoxaparin Sodium 40 mg SC DAILY Duration: 28 Days 
Start: ___, First Dose: First Routine Administration Time 
RX *enoxaparin 40 mg/0.4 mL 40 mg subcutaneous once a day Disp 
#*28 Syringe Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
do not drink alcohol or drive a car while taking this medication 

RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
4.  PredniSONE 20 mg PO DAILY Duration: 2 Doses 
please see taper instructions in d/c instructions 
Tapered dose - DOWN 
RX *prednisone 5 mg 4 tablet(s) by mouth once a day Disp #*40 
Tablet Refills:*1 
5.  ARIPiprazole 4 mg PO DAILY  
6.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
7.  LamoTRIgine 300 mg PO DAILY  
8.  Multivitamins W/minerals 1 TAB PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Ulcerative Colitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ were admitted to the hospital for a flare in your ulcerative 
colitis symptoms. ___ were started on high dose IV steroids as 
well as an anti-inflammatory medication called infliximab. 
Several infections studies were sent and were all negative. Your 
symptoms initially improved with this treatment but then 
recurred. Given ongoing symptoms, ___ ultimately underwent a 
colectomy.

___ will take the medication Lovenox for a total of 30 days 
after surgery. Please follow the injection instructions given to 
___ by the nursing staff. Monitor yourself for signs of bleeding 
including: feeling weak or faint, fast heart rate, brusing, or a 
cut that will not stop bleeding. Call with any issues.

___ will be tapering off steroids. ___ will take Prednisone 20mg 
daily for  2 more days, Prednisone 10mg daily for 3 days, 
Prednisone 5mg daily for 3 more days, and then stop. During this 
time ___ should monitor for signs and symptoms of steroid 
withdrawal including: weakness, dizziess, nausea, vomiting, 
abdominal pain, extreme fatigue. Call our office with any 
questions or concerns. 

Please monitor your bowel function closely. If ___ have any of 
the following symptoms please call the office for advice 
___:
fever greater than 101.5
increasing abdominal distension
increasing abdominal pain
nausea/vomiting
inability to tolerate food or liquids
prolonged loose stool
extended constipation
inability to urinate

___ have a new ileostomy. The most common complication from a 
new ileostomy placement is dehydration. The output from the 
stoma is stool from the small intestine and the water content is 
very high. The stool is no longer passing through the large 
intestine which is where the water from the stool is reabsorbed 
into the body and the stool becomes formed. ___ must measure 
your ileostomy output for the next few weeks. The output from 
the stoma should not be more than 1200cc or less than 500cc. If 
___ find that your output has become too much or too little, 
please call the office for advice. The office nurse or nurse 
practitioner can recommend medications to increase or slow the 
ileostomy output. Keep yourself well hydrated, if ___ notice 
your ileostomy output increasing, take in more electrolyte drink 
such as Gatorade. Please monitor yourself for signs and symptoms 
of dehydration including: dizziness (especially upon standing), 
weakness, dry mouth, headache, or fatigue. If ___ notice these 
symptoms please call the office or return to the emergency room 
for evaluation if these symptoms are severe. ___ may eat a 
regular diet with your new ileostomy. However it is a good idea 
to avoid fatty or spicy foods and follow diet suggestions made 
to ___ by the ostomy nurses.

___ monitor the appearance of the ostomy and stoma and care 
for it as instructed by the wound/ostomy nurses. ___ stoma 
(intestine that protrudes outside of your abdomen) should be 
beefy red or pink, it may ooze small amounts of blood at times 
when touched and this should subside with time. The skin around 
the ostomy site should be kept clean and intact. Monitor the 
skin around the stoma for bulging or signs of infection listed 
above. Please care for the ostomy as ___ have been instructed by 
the wound/ostomy nurses. ___ will be able to make an appointment 
with the ostomy nurse in the clinic 7 days after surgery. ___ 
will have a visiting nurse at home for the next few weeks 
helping to monitor your ostomy until ___ are comfortable caring 
for it on your own.

Incisions:
___ have ___ laparoscopic surgical incisions on your abdomen 
which are closed with internal sutures. These are healing well 
however it is important that ___ monitor these areas for signs 
and symptoms of infection including: increasing redness of the 
incision lines, white/green/yellow/malodorous drainage, 
increased pain at the incision, increased warmth of the skin at 
the incision, or swelling of the area.
___ may shower; pat the incisions dry with a towel, do not rub. 
The small incisions may be left open to the air. If closed with 
steri-strips (little white adhesive strips), these will fall off 
over time, please do not remove them. Please no baths or 
swimming until cleared by the surgical team.
Pain
It is expected that ___ will have pain after surgery and this 
pain will gradually improved over the first week or so ___ are 
home. ___ will especially have pain when changing positions and 
with movement. ___ should continue to take 2 Extra Strength 
Tylenol (___) for pain every 8 hours around the clock and ___ 
may also take Advil (Ibuprofen) 600mg every hours for 7 days. 
Please do not take more than 3000mg of Tylenol in 24 hours or 
any other medications that contain Tylenol such as cold 
medication. Do not drink alcohol while or Tylenol. Please take 
Advil with food. If these medications are not controlling your 
pain to a point where ___ can ambulate and preform minor tasks, 
___ should take a dose of the narcotic pain medication 
Oxycodone. Please take this only if needed for pain. Do not take 
with any other sedating medications or alcohol. Do not drive a 
car if taking narcotic pain medications.
Activity
___ may feel weak or "washed out" for up to 6 weeks after 
surgery. No heavy lifting greater than a gallon of milk for 3 
weeks. ___ may climb stairs. ___ may go outside and walk, but 
avoid traveling long distances until ___ speak with your 
surgical team at your first follow-up visit. Your surgical team 
will clear ___ for heavier exercise and activity as the observe 
your progress at your follow-up appointment. ___ should only 
drive a car on your own if ___ are off narcotic pain medications 
and feel as if your reaction time is back to normal so ___ can 
react appropriately while driving.

 
Followup Instructions:
___